US04777256
1-Butyl-5-chloro-N-(2,6-diethylphenyl)-1,4-dihydro-2,6-dimethyl-4-oxo-3-pyridinecarboxamide (compound 2)
A mixture of 500 mg (1.41 mmol, m.p. 110°-112° C.) of 1-butyl-N-(2,6-diethylphenyl)-1,4-dihydro-2,6-dimethyl-4-oxo-3-pyridinecarboxamide and 188 mg (1.41 mmol) of N-chlorosuccinimide was dissolved in 15 ml of chloroform and refluxed with stirring. To the reaction mixture, 190 mg of N-chloro-succinimide was added in twice, and refluxed for 15.2 hours.

reactant | 1-butyl-N-(2,6-diethylphenyl)-1,4-dihydro-2,6-dimethyl-4-oxo-3-pyridinecarboxamide | 1.41 mmol, 500 mg | C(CCC)N1C(=C(C(C=C1C)=O)C(=O)NC1=C(C=CC=C1CC)CC)C | C22H30N2O2
reactant | N-chlorosuccinimide | 1.41 mmol, 188 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | N-chloro-succinimide | 190 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-Butyl-5-chloro-N-(2,6-diethylphenyl)-1,4-dihydro-2,6-dimethyl-4-oxo-3-pyridinecarboxamide | C(CCC)N1C(=C(C(C(=C1C)Cl)=O)C(=O)NC1=C(C=CC=C1CC)CC)C | C22H29ClN2O2
